US07923450B2
b) [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-(4-trifluoromethoxy-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-amine
A suspension of [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea (48 mg, 0.18 mmol) and of crude 6-bromo-2-(4-trifluoromethoxyl-phenyl)-cyclohexanone (65 mg, 0.19 mmol) in ethanol (2 mL) was heated to reflux under an atmosphere of nitrogen for 2 days. After cooling to room temperature the solvent was evaporated under reduced pressure and the residue was purified by reversed preparative HPLC using acetonitril/water (0.1% formic acid) to yield the title compound (16 mg, 17%) as a pale-brown oil. MS ISP (m/e): 501.0 (100) [(M+H)+]. 1H NMR (CDCl3, 300 MHz): δ (ppm)=7.61 (s, 1H), 7.35 (s, 1H), 7.08-7.20 (m, 4H), 6.82 (s, 1H), 6.65 (d, 1H), 4.06 (m, 1H), 3.56 (s, 3H), 2.75 (m, 2H), 2.28 (s, 3H), 2.25 (m, 1H), 1.77-1.98 (m, 3H).

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.18 mmol, 48 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
reactant | 6-bromo-2-(4-trifluoromethoxyl-phenyl)-cyclohexanone | 0.19 mmol, 65 mg | BrC1CCCC(C1=O)C1=CC=C(C=C1)OC(F)(F)F | C13H12BrF3O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-(4-trifluoromethoxy-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-amine | 16 mg, 17% | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC2=C(N1)C(CCC2)C2=CC=C(C=C2)OC(F)(F)F | C25H23F3N4O2S
